US05939439
Step 1: 4-(4-bromo-phenyl)-4,5,6,7-tetrahydro-3H-imidazo[4,5-c]pyridine
Histamine dihydrochloride (3.68 g, 0.02 mole), KOH (3.36 g, 0.06 mole), and 4-bromobenzaldehyde were dissolved in water (250 mL) and 95% EtOH(100 mL). The reaction was heated for 24 h at reflux while being open to the atmosphere. The resulting white precipitate was filtered and dried under vacuum at 40° C. to give the title compound.

reactant | Histamine dihydrochloride | 0.02 mole, 3.68 g | Cl.Cl.NCCC1=CNC=N1
reactant | KOH | 0.06 mole, 3.36 g | [OH-].[K+]
reactant | 4-bromobenzaldehyde | BrC1=CC=C(C=O)C=C1 | C7H5BrO
solvent | water | 250 mL | O | H2O
solvent | EtOH | 100 mL | CCO | C2H6O
product | 4-(4-bromo-phenyl)-4,5,6,7-tetrahydro-3H-imidazo[4,5-c]pyridine | BrC1=CC=C(C=C1)C1NCCC2=C1NC=N2 | C12H12BrN3
